US06610708B1
8.0 g (28.9 mmol) of 1-(α-cyclopropylcarbonyl-2-fluorobenzyl)-4-hydroxypiperidine were dissolved in 50 ml of dichloromethane, followed by the addition of 2.92 g (28.9 mmol) of triethylamine. A 10 ml dichloromethane solution of 3.31 g (28.9 mmol) of methanesulfonyl chloride was added dropwise under ice cooling and the resulting mixture was stirred at room temperature for 1 hour. The solvent was then distilled off under reduced pressure. Ethyl acetate was added to the residue and the triethylamine hydrochloride thus precipitated was filtered off. The filtrate was concentrated under reduced pressure, whereby crude 1-(α-cyclopropylcarbonyl-2-fluorobenzyl)-4-methylsulfonyloxypiperidine was obtained. To the resulting crude product were added 50 ml of dimethyl sulfoxide (DMSO) and 19.8 g (170 mmol) of potassium thioacetate and the resulting mixture was stirred at 50° C. for 4 hours. Water was added to the reaction mixture. The resulting mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (eluting solvent: toluene/ethyl acetate=19/1), whereby a reddish brown oil was obtained. The oil was then crystallized from hexane, whereby 3.6 g of 4-acetylthio-1-(α-cyclopropylcarbonyl-2-fluorobenzyl)piperidine were obtained as pale brown crystals (yield: 37%).

reactant | 1-(α-cyclopropylcarbonyl-2-fluorobenzyl)-4-hydroxypiperidine | 28.9 mmol, 8.0 g | C1(CC1)C(=O)C(C1=C(C=CC=C1)F)N1CCC(CC1)O | C16H20FNO2
reactant | triethylamine | 28.9 mmol, 2.92 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 28.9 mmol, 3.31 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium thioacetate | 170 mmol, 19.8 g | C(C)(=S)[O-].[K+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-acetylthio-1-(α-cyclopropylcarbonyl-2-fluorobenzyl)piperidine | 3.6 g | C(C)(=O)SC1CCN(CC1)C(C1=C(C=CC=C1)F)C(=O)C1CC1 | C18H22FNO2S
